US04613683
A mixture of 30 g of tara (about 0.1 mole of bound gallic acid), 120 g (0.95 mole) of n-octanol and 3 g of anhydrous sulfuric acid was heated at 140° C. for 7 hours with continuous removal of the water of reaction, after which the mixture was washed neutral with water and then evaporated down to give the crude n-octyl gallate in the form of an oil. The purity of the product was 65% and the yield was 75%, calculated as pure ester.

reactant | gallic acid | about 0.1 mole | C(C1=CC(O)=C(O)C(O)=C1)(=O)O | C7H6O5
reactant | n-octanol | 0.95 mole, 120 g | C(CCCCCCC)O | C8H18O
reactant | sulfuric acid | 3 g | S(O)(O)(=O)=O | H2O4S
solvent | water | O | H2O
product | n-octyl gallate | yield was 75% | C(C1=CC(O)=C(O)C(O)=C1)(=O)OCCCCCCCC | C15H22O5
